US09056859B2
Step D: 6-[2-(piperazin-1-yl)ethyl]-3,4-dihydro-1H-isochromen-1-one hydrochloride
tert-Butyl-4-[2-(1-oxo-3,4-dihydro-1H-isochromen-6-yl)ethyl]piperazine-1-carboxylate (2.24 g, 6.21 mmol) was treated with 4 M HCl in dioxane (Aldrich, 90 mL) and the resulting mixture was stirred at room temperature for 40 minutes. The reaction mixture was then concentrated to afford the title compound. LCMS: m/z 261 (M+1)+.

reactant | tert-Butyl-4-[2-(1-oxo-3,4-dihydro-1H-isochromen-6-yl)ethyl]piperazine-1-carboxylate | 6.21 mmol, 2.24 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC=1C=C2CCOC(C2=CC1)=O | C20H28N2O4
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 90 mL | O1CCOCC1 | C4H8O2
product | 6-[2-(piperazin-1-yl)ethyl]-3,4-dihydro-1H-isochromen-1-one hydrochloride | Cl.N1(CCNCC1)CCC=1C=C2CCOC(C2=CC1)=O | InChI=1S/C15H20N2O2.ClH/c18-15-14-2-1-12(11-13(14)4-10-19-15)3-7-17-8-5-16-6-9-17;/h1-2,11,16H,3-10H2;1H
